US09260397B2
1-(2-ethoxyphenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure, 5.3 mmol (1.00 g) 1-(2-ethoxyphenyl)imidazole and 6.4 mmol (0.780 g, 0.58 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 21 h to 90° C.

reactant | 1-(2-ethoxyphenyl)imidazole | 5.3 mmol, 1.00 g | C(C)OC1=C(C=CC=C1)N1C=NC=C1 | C11H12N2O
reactant | 1-bromopropane | 6.4 mmol, 0.58 ml, 0.780 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-ethoxyphenyl)-3-propyl imidazolium bromide | [Br-].C(C)OC1=C(C=CC=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C14H19N2O.BrH/c1-3-9-15-10-11-16(12-15)13-7-5-6-8-14(13)17-4-2;/h5-8,10-12H,3-4,9H2,1-2H3;1H/q+1;/p-1
